US09102637B2
5-(2-cyclopentylacetamido)-2-(naphthalen-2-ylamino)thiazole-4-carboxamide
A solution of 2-cyclopentylacetyl chloride (0.35 mL, 2.64 mmol) in THF (2 mL) was added dropwise to a mixture of 5-amino-2-(naphthalen-2-ylamino) thiazole-4-carboxamide (0.15 g, 0.53 mmol) and pyridine (2 mL) in THF (10 mL) at 0° C., and the mixture was stirred for 16 hrs at rt. The reaction mixture was quenched with ice-water. The resulting solids were collected by filtration and washed successively with ether and EtOAc to give 0.12 g (58% yield) of the titled compound.

reactant | 2-cyclopentylacetyl chloride | 2.64 mmol, 0.35 mL | C1(CCCC1)CC(=O)Cl | C7H11ClO
reactant | 5-amino-2-(naphthalen-2-ylamino) thiazole-4-carboxamide | 0.53 mmol, 0.15 g | NC1=C(N=C(S1)NC1=CC2=CC=CC=C2C=C1)C(=O)N | C14H12N4OS
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(2-cyclopentylacetamido)-2-(naphthalen-2-ylamino)thiazole-4-carboxamide | 0.12 g, 58% yield | C1(CCCC1)CC(=O)NC1=C(N=C(S1)NC1=CC2=CC=CC=C2C=C1)C(=O)N | C21H22N4O2S
